US08182718B2
Hgp=N,N-Dipyridin-2-ylacetamide
To a flask were added 2,2′-dipyridylamine and 12 ml acetic anhydride. The mixture was heated to 110 C under nitrogen for 5 hours and cooled to 22 C. After quenching with a slow addition of aqueous sodium bicarbonate, the mixture was made basic with the addition of small portions of sodium carbonate. The product was extracted with ethyl acetate and after removal of solvent, it was purified by silica gel chromatography using 65% ethyl acetate in hexane to give 0.8 g of an oil.

reactant | 2,2′-dipyridylamine | C1=CC=NC(=C1)NC2=CC=CC=N2 | C10H9N3
reactant | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N,N-Dipyridin-2-ylacetamide | 0.8 g | N1=C(C=CC=C1)N(C(C)=O)C1=NC=CC=C1 | C12H11N3O
